US04457866
2.7. Boc-Gly-Pro-Glu(O-But)-Gly-OMe
2.7 g (10 mmoles) of Boc-Gly-Pro-OH and 4.5 g (10 mmoles) of H-Glu(O-But)-Gly-OMe.TosOH are dissolved in 20 ml of dimethylformamide. 1.28 ml (10 mmoles) of N-ethylmorpholine and 2.2 g (10.6 mmoles) of dicyclohexylcarbodiimide are added and the mixture is left to stand at room temperature overnight. The dicyclohexylurea is then filtered off, the solvent is distilled off in vacuo, the residue is taken up in ethyl acetate and the solution is washed with citric acid, bicarbonate solution and water, as described above, dried over sodium sulfate and evaporated to dryness. The residue is dissolved in ether and a precipitate is obtained with petroleum ether and filtered off.

reactant | Boc-Gly-Pro-OH | 10 mmoles, 2.7 g | N(CC(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C12H20N2O5
reactant | H-Glu(O-But)-Gly-OMe | 10 mmoles, 4.5 g | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)NCC(=O)OC | C12H22N2O5
reactant | TosOH | S(=O)(=O)(C1=CC=C(C)C=C1)O | C7H8O3S
reactant | N-ethylmorpholine | 10 mmoles, 1.28 ml | C(C)N1CCOCC1 | C6H13NO
reactant | dicyclohexylcarbodiimide | 10.6 mmoles, 2.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Boc-Gly-Pro-Glu(O-But)-Gly-OMe | N(CC(=O)N1[C@H](C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)NCC(=O)OC)CCC1)C(=O)OC(C)(C)C | C24H40N4O9
